US06165942
Synthesis of 2-amino-3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-6-trifluoromethylpyrimidin-4-one
To a mixture of 3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one (1.0 g) and dry THF (50 ml) was blown an ammonia gas until the starting material was not found when detected with TLC. The mixture was dried on anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. The thus obtained white solid (0.7 g) was used in the next reaction without purifying it.

reactant | 3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one | 1.0 g | ClC1=C(C=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C)C(=O)OCC | C15H12ClF3N2O5S
reactant | ammonia | N | H3N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-amino-3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-6-trifluoromethylpyrimidin-4-one | NC1=NC(=CC(N1C1=CC(=C(C=C1)Cl)C(=O)OCC)=O)C(F)(F)F | C14H11ClF3N3O3
